US07678818B2
c) Preparation of 4-(1-fluoro-cyclopropyl)benzoic acid
Oxygen was slowly bubbled at 100° C. through a solution of 1-(1-fluoro-cyclopropyl)-4-methyl-benzene (470 mg, 3.13 mmol), cobalt(II)acetate tetrahydrate (117 mg, 0.46 mmol), and acetaldehyde (0.18 mL, 3.1 mmol) in acetic acid (30 mL) over 16 h. After cooling, the reaction mixture was evaporated and the residue triturated in water. The precipitate was collected by filtration to produce the title compound (257 mg, 46%). Light green solid, MS (EI) 180.1 (M+).

reactant | Oxygen | O=O | O2
reactant | 1-(1-fluoro-cyclopropyl)-4-methyl-benzene | 3.13 mmol, 470 mg | FC1(CC1)C1=CC=C(C=C1)C | C10H11F
reactant | acetaldehyde | 3.1 mmol, 0.18 mL | C(C)=O | C2H4O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | cobalt(II)acetate tetrahydrate | 0.46 mmol, 117 mg | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | 4-(1-fluoro-cyclopropyl)benzoic acid | 257 mg, 46% | FC1(CC1)C1=CC=C(C(=O)O)C=C1 | C10H9FO2
